Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Discomfort, pericardial effusion 

 
Major Surgical or Invasive Procedure:
___: Right heart catheterization

 
History of Present Illness:
___ with PMHx of morbid obesity, HTN, GERD, thyroid goiters 
who presents from OSH for further management of chest discomfort 
after TTE showed interval increase in size of known pericardial 
effusion.  
Patient reports that 1 week ago he started developing a cough. 
His cough is non-productive. Wife and a person working in the 
patient's home have been sick as well. He ___ fevers, but has 
had chills. He reports rhinorrhea. In regards to the cough, he 
feels a lot better. The patient noticed a dull pain in the chest 
of his chest. He has not noticed any radiation of the pain. It 
is pleuritic and has not been associated with SOB. He believes 
that his symptoms worsen when leaning forward. The patient 
reports that he has been feeling this sensation mostly at night. 
Last night, he had a dull pain that was bad. Associated with 
this worsening in the pain, he reports that he had to think 
about breathing. However, he notes that there are times when he 
finds a interesting TV show, he can be destracted from his pain. 
 
 
The patient presented to ___ with cough. Workup at ___ showed 
increase in pericardial effusion from prior imaging with no 
evidence of tamponade. At the OSH, troponins negative times 2 
(<0.01) and BNP 252. CTA chest at the OSH showed LLL PNA for 
which he received IV levaquin, steroids and nebs at ___. CTA 
ruled out PE. He denies fever, chills, chest pain, SOB, neck/jaw 
pain, N/V, palpitations, dizziness or lightheadedness.  
He currently denies chest pain or SOB. States that his breathing 
feels good He does have a productive cough.  
 
In the ED, initial vitals were: 98.9 100 161/90 20 94%  
-Labs were unremarkable, including negative troponin.  
-Patient received 500cc NS in the ED.  
-___ cardiology attending was made aware of the patient who 
recommended admission to ___.  
On transfer, vitals were: 3 99.6 109 172/80 22 95% RA  
On arrival to the floor, patient was comfortable and not short 
of breath.  

 
Past Medical History:
Morbid obesity  
Hypertension  
GERD  
Thyroid goiter  
 
Social History:
___
Family History:
Father with MI at a young age; patient unsure specifically what 
age. Mother with MI in her ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 99.4 140/80 105 22 95% RA  
General: NAD, morbidly obese, comfortable, pleasant  
HEENT: NCAT, PERRL, EOMI. MMM.  
Neck: supple, unable to appreciate JVD ___ to patient's body 
habitus and facial hair  
CV: Very distant heart sounds with no appreciable m/r/g. 
Patient's rhonchorous breath sounds were also contributing the 
difficulty in appreciating patient's heart sounds.  
Lungs: Nml WOB. Patient with diffuse rhoncorous breath sounds 
bilaterally. Diffuse wheezing bilaterally as well. Faint 
crackles at the LLL.  
Abdomen: Morbidly obese. Soft. NT/ND.  
Ext: 3+ edema of the lower extremities to the knee bilaterally. 
Feet were warm but unable to palpate pulses ___ edema at the 
feet.  
Neuro: CN ___ intact. Moving all extremities. ___ strength 
plantar/dorsiflexion at the ankles bilaterally. Able to move 
from bed to chair independently.  

DISCHARGE PHYSICAL EXAM:
VS:99.4 98 ___ 109-118 ___ 94/RA
I/O: ___
Weight: 156.6 <-343lb (155.6kg)
General: NAD, morbidly obese, comfortable, pleasant  
HEENT: NCAT, PERRL, EOMI. MMM.  
Neck: supple, unable to appreciate JVD ___ to patient's body 
habitus and facial hair  
CV: Very distant heart sounds with no appreciable m/r/g. Pulsus 
of ___
Lungs: Nml WOB. Patient with diffuse rhoncorous breath sounds 
bilaterally. Diffuse wheezing bilaterally as well.   
Abdomen: Morbidly obese. Soft. NT/ND.  
Ext: 3+ edema of the lower extremities to the knee bilaterally. 
Feet were warm but unable to palpate pulses ___ edema at the 
feet.  
Neuro: CN ___ intact. Moving all extremities. ___ strength 
plantar/dorsiflexion at the ankles bilaterally. Able to move 
from bed to chair independently.  

 
Pertinent Results:
ADMISSION LABS:
___ 07:50AM BLOOD WBC-6.0 RBC-3.51* Hgb-10.1* Hct-33.0* 
MCV-94 MCH-28.9 MCHC-30.7* RDW-14.1 Plt Ct-20*
___ 05:55PM BLOOD ___ PTT-27.8 ___
___ 05:55PM BLOOD Glucose-161* UreaN-14 Creat-0.9 Na-138 
K-6.4* Cl-103 HCO3-24 AnGap-17
___ 05:55PM BLOOD cTropnT-<0.01
___ 07:05AM BLOOD Calcium-8.7 Phos-3.6 Mg-2.2
___ 06:01PM BLOOD Glucose-161* Lactate-1.8 Na-139 K-4.5 
Cl-105 calHCO3-23

DISCHARGE LABS:
___ 08:50AM BLOOD WBC-8.6 RBC-4.24* Hgb-12.3* Hct-37.9* 
MCV-89 MCH-29.0 MCHC-32.5 RDW-13.9 Plt ___
___ 08:50AM BLOOD ___ PTT-31.3 ___
___ 08:50AM BLOOD Glucose-193* UreaN-13 Creat-0.9 Na-137 
K-3.9 Cl-99 HCO3-28 AnGap-14

ECG Study Date of ___  5:38:04 ___ 
Sinus tachycardia. Non-specific septal ST-T wave abnormalities. 
Diffuse 
low QRS voltage. No previous tracing available for comparison.  
Rate PR QRS QT/QTc P QRS T 
107 154 82 ___ 44 

ECG Study Date of ___  7:58:32 AM 
Sinus rhythm. Low QRS voltage, particularly in limb leads. 
Diffuse 
non-specific ST-T wave abnormalities. No major change from 
previous tracing. 
Rate PR QRS QT/QTc P QRS T 
95 154 82 ___ 41 

ECG Study Date of ___  9:44:24 AM 
Sinus tachycardia. Diffuse low voltage. Delayed R wave 
transition. 
Non-specific inferior ST-T wave flattening. Compared to the 
previous tracing of ___ no diagnostic interim change. 
Rate PR QRS QT/QTc P QRS T 
100 150 78 ___ 30 
 
CHEST (PORTABLE AP) ___ 10:06 ___ 
FINDINGS:  Cardiac silhouette is markedly enlarged with a 
somewhat globular configuration.  This likely reflects known 
pericardial effusion.  Left retrocardiac region is not optimally 
evaluated in the setting of enlarged cardiac silhouette and 
superimposed soft tissues of the chest wall, but no definite 
areas of consolidation are present in this region.  Considering 
clinical history of left lower lobe opacity on outside chest 
radiographs, dedicated PA and lateral radiographs may be helpful 
for more complete evaluation of the left lower lobe when the 
patient's condition permits. 

TRANSTHORACIC ECHOCARDIOGRAM ___
Echocardiographic Measurements  
Results  Measurements  Normal Range  
Left Ventricle - Ejection Fraction:  >= 55%  >= 55%  
Findings  
LEFT VENTRICLE: Mild symmetric LVH with normal cavity size. 
Suboptimal technical quality, a focal LV wall motion abnormality 
cannot be fully excluded. Overall normal LVEF (>55%). 
RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 
AORTIC VALVE: Aortic valve not well seen. 
MITRAL VALVE: Mildly thickened mitral valve leaflets. Trivial 
MR. 
___ VALVE: Tricuspid valve not well visualized. 
Physiologic TR. 
PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not visualized. 
No PS. Physiologic PR. 
PERICARDIUM: Moderate pericardial effusion. Effusion 
circumferential. No RA diastolic collapse. Significant, 
accentuated respiratory variation in mitral/tricuspid valve 
inflows, c/w impaired ventricular filling. 
GENERAL COMMENTS: Suboptimal image quality - poor echo windows. 
The patient appears to be in sinus rhythm. Resting tachycardia 
(HR>100bpm). Echocardiographic results were reviewed by 
telephone with the houseofficer caring for the patient.  
CONCLUSIONS:
There is mild symmetric left ventricular hypertrophy with normal 
cavity size. Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. Overall left 
ventricular systolic function is normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve is not well seen. The mitral valve leaflets are 
mildly thickened. Trivial mitral regurgitation is seen. There is 
a moderate sized pericardial effusion primarily located adjacent 
to the atria and posterior to the left ventricle (effusion 
measures ~0.5 cm anteriorly, adjacent to the right ventricle and 
apex). The effusion appears circumferential. No right atrial 
diastolic collapse is seen. There is significant, accentuated 
respiratory variation in tricuspid valve inflows, consistent 
with impaired ventricular filling. 
IMPRESSION: Suboptimal image quality. Moderate sized, 
predominantly posterior, pericardial effusion with early signs 
of impaired right ventricular filling but without frank 
tamponade.   

TRANSTHORACIC ECHOCARDIOGRAM ___
Echocardiographic Measurements  
Results  Measurements  Normal Range  
Left Ventricle - Ejection Fraction:  >= 60%  >= 55%  
Pericardium - Effusion Size:  1.5 cm     
Findings  
This study was compared to the prior study of ___.  
LEFT VENTRICLE: LV not well seen. 
RIGHT VENTRICLE: RV not well seen. 
PERICARDIUM: Moderate pericardial effusion. Effusion 
circumferential. Effusion echo dense, c/w blood, inflammation or 
other cellular elements. 
GENERAL COMMENTS: Suboptimal image quality - poor echo windows. 
Suboptimal image quality - body habitus.  
Conclusions  
LIMITED STUDY/SUBOPTIMAL VIEWS: The left ventricle is not well 
seen. There is a moderate sized pericardial effusion. The 
effusion appears circumferential but is largest posterior and 
lateral to the heart (1.5-1.7 cm posteriorly, 0.5 cm anterior to 
the right ventricular outflow tract). The effusion is echo 
dense, consistent with blood, inflammation or other cellular 
elements. The study is inadequate to assess for tamponade 
physiology given inability to visualize right ventricle or right 
atrium. Respiratory inflow velocities were not assessed due to 
poor apical image quality. 
Compared with the prior study (images reviewed) of ___, 
the effusion appears similar in size. The right ventricle is not 
well visualized on the current study. The study is unable to 
assess for echocardiographic signs of tamponade physiology given 
limited views.   

RIGHT HEART CATHETERIZATION ___
Baseline
Time     Site   Hgb     ___     PO2     Content
                gm/dL   %       mmHg    ml/dl
04:18 ___ ___ ___ ___
04:24 ___ ___
Cardiac Output Results
Phase           Fick    Fick    TD      TD
                C.O.    C.I.    C.O.    C.I.
                L/min   LPM/m2  L/min   LPM/m2
Baseline6.982.81
Hemodynamic Measurements (mmHg)
Baseline
Site    ___     ___    End     Mean    A Wave  V Wave  HR
___
Assessment & Recommendations
 1. Elevated right heart pressures with moderately severely
increased PCW and PA pressures without equalization of PCW and
RA. No abnormal RA or PCW wave forms
 2. Preserved cardiac output
 3. No evidence by hemodynamics measured of pericardial 
tamponade

 
Brief Hospital Course:
PRIMARY REASON FOR ADMISSION:
___ with past medical history of known pericardial effusion who 
presented to OSH with chest discomfort and transferred to ___ 
after being found to have a moderate sized pleural effusion 
without tamponade and a LLL Pneumonia.  

ACTIVE ISSUES:
#Pericardial Effusion: The patient previously was known to have 
a small pericardial effusion. He had been started on 
indomethacin 50mg TID previously. TTE on ___ was limited by 
poor echo windows, but showed a moderate sized, predominantly 
posterior, pericardial effusion with early signs of impaired 
right ventricular filling but without frank tamponade.  The 
posterior location of the effusion would make any attempt at 
pericardiocentesis quite risky. His symptoms improved with 
treatment of the pneumonia (see below) but his pulsus rose to 
>20 on ___.  Repeat TTE was relatively unchanged from prior. 
Given the location of the fluid, Cardiac Surgery was consulted 
for need for pericardial window, but felt that because of his 
morbid obesity this would likely be a complex and potentially 
morbid procedure. He then underwent right heart catheterization 
that showed elevated right heart pressures with moderately 
severely increased PCW and PA pressures but without equalization 
of diastolic pressures. There was preserved cardiac output and 
no abnormal RA or PCW wave forms. Given that there was no 
evidence by hemodynamics measured of pericardial tamponade, and 
that clinically he appeared well, he was discharged with plans 
for close follow-up and repeat TTE next week. Should he have any 
change in clinical status, he was directed to seek urgent 
medical attention. 

#Left Lower Lobe Pneumonia: The patient had a CTA at OSH that 
showed left lower lobe pneumonia. He was treated for community 
acquired pneumonia with levofloxacin x 5 days (last day ___. 
His lungs continued to sound poor despite subjective clinical 
improvement. He was given nebulizers and will be discharged with 
albuterol and ipratropium inhalers (with spacers - taught by RN 
to use) and guaifenesin.

CHRONIC ISSUES:
# HTN: Given his pericardial effusion, tolerated relative 
hypertension (to the 160s/170s). His atenolol was initially held 
but restarted on discharge.

# Chronic pain: Stable. The patient has bilateral hip pain for 
which he takes indomethacin. 

# GERD: Continued home PPI.  

# BPH: Continued home medications.  

TRANSITIONAL ISSUES:
- He will need repeat TTE early next week
- He was discharged with inhalers (albuterol/ipratropium) to be 
used prn
- If he has any acute changes, should be re-evaluated urgently
- He reports taking indomethacin for hip pain, and may benefit 
from trying other pain medications. He was counseled to continue 
taking omeprazole while on indomethacin.
- Full code

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Astelin (azelastine) 137 mcg nasal ___ times a day 
3. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
4. Nabumetone 500 mg PO ___ X/DAY 
5. Tamsulosin 0.4 mg PO HS 
6. Indomethacin 50 mg PO TID 
7. Atenolol 25 mg PO DAILY 

 
Discharge Medications:
1. Omeprazole 20 mg PO DAILY 
2. Tamsulosin 0.4 mg PO HS 
3. Astelin (azelastine) 137 mcg nasal ___ times a day 
4. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
5. Nabumetone 500 mg PO ___ X/DAY 
6. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath, 
wheeze 
Please include spacer 
RX *albuterol  ___ puffs every 6 hours Disp #*1 Inhaler 
Refills:*0
7. Ipratropium Bromide MDI 2 PUFF IH Q6H shortness of breath, 
wheeze 
Please include spacer 
RX *ipratropium bromide [Atrovent HFA] 17 mcg/actuation 2 puffs 
every six hours Disp #*1 Inhaler Refills:*0
8. Indomethacin 50 mg PO TID 
9. Polyethylene Glycol 17 g PO DAILY constipation 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth daily 
Disp #*30 Packet Refills:*0
10. Guaifenesin 5 mL PO Q6H:PRN cough 
RX *guaifenesin 400 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0
11. Atenolol 25 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
- pericardial effusion
- community acquired pneumonia

Secondary diagnoses:
- morbid obesity
- hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was our pleasure participating in your care here at ___. 
You were transferred here on ___ after you were found to 
have a pneumonia and fluid around the heart. You were started on 
antibiotics (levofloxacin) for your pneumonia which you have 
completed. You will also be discharged with prescriptions for 
inhalers, which contain medication to help open up your airways. 
Please make sure to use your inhalers the way you were shown.

You had two ultrasounds of your heart, called echocardiograms, 
that again showed you had fluid around your heart. You then had 
a procedure called  a right heart catheterization that showed 
that your heart pressures were still okay despite the fluid.  
Because of this, it was safe for you to go home with a plan for 
close follow-up and another ultrasound of your heart next week. 
This does not mean that eventually you won't need the fluid 
draind.

If you should have worsening shortness of breath, chest pain, 
decreased urine output, loss of consciousness or any other 
concerning symptom, please call ___.

Again, it was our pleasure participating in your care.
We wish you the very best,
-- Your ___ Medicine Team --
 
Followup Instructions:
___